US04588726
5.3 g (20 mmol) of 1-cyclopropyl-6,7-difluoro-1,4-dihydro-4-oxo-3-quinolinecarboxylic acid are initially introduced into 50 ml of DMSO and heated with 2.4 g (24 mmol) of 2-piperazinone and 4.4 g (40 mmol) of 1,4-diazabicyclo[2.2.2]octane at 130° C. for 1 hour. After cooling, the suspension is adjusted to pH 5 with 2 N hydrochloric acid, 50 ml of water are added, and the precipitate is filtered off with suction, washed with water and methanol, and then boiled in 50 ml of methanol. 5 g (72% of theory) of 1-cyclopropyl-6-fluoro-1,4-dihydro-4-oxo-7-(3-oxo-1-piperazinyl)-3-quinolinecarboxylic acid of melting point 342°-348° C. (decomposition) and purity 97% (HPLC) are isolated. Mass spectrum: m/e 345 (M+), 301 (94%, M+--CO2), 231 (M+--C 3 H4NO), 202, 44 (100%, CO2). NMR (CF3COOH)=δ1.45 and 1.7 broad (4H in the cyclopropyl radical), 3.9 and 4.0 broad (5H, N--CH in the cyclopropyl radical, N--CH2CH2 --N), 4.6 broad (2H, CO--CH2 --N), 7.85 d (1H, on C-8), 8.28 d (1H, on C-5), 9.3 s (1H, on C-2).

reactant | 1-cyclopropyl-6,7-difluoro-1,4-dihydro-4-oxo-3-quinolinecarboxylic acid | 20 mmol, 5.3 g | C1(CC1)N1C=C(C(C2=CC(=C(C=C12)F)F)=O)C(=O)O | C13H9F2NO3
reactant | 2-piperazinone | 24 mmol, 2.4 g | N1C(CNCC1)=O | C4H8N2O
reactant | 1,4-diazabicyclo[2.2.2]octane | 40 mmol, 4.4 g | N12CCN(CC1)CC2 | C6H12N2
reactant | hydrochloric acid | 2 N | Cl | ClH
solvent | water | 50 ml | O | H2O
solvent | DMSO | 50 ml | CS(=O)C | C2H6OS
product | 1-cyclopropyl-6-fluoro-1,4-dihydro-4-oxo-7-(3-oxo-1-piperazinyl)-3-quinolinecarboxylic acid | 5 g, 72% | C1(CC1)N1C=C(C(C2=CC(=C(C=C12)N1CC(NCC1)=O)F)=O)C(=O)O | C17H16FN3O4
